US06127354
N-(2-(2-Aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester (555 mg, 2.22 mmol) and triethylamine (0.40 ml, 2.66 mmol) were dissolved in dichloromethane (12 ml) and cooled to -78° C. A solution of benzenesulfonyl chloride (0.28 ml, 2.22 mmol) in dichloromethane (3 ml) was added dropwise. The solution was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (40 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (20 ml). The aqueous phase was extracted with ethyl acetate (2×15 ml). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (30 g), using ethyl acetate/heptane 1:3 as eluent, to give 557 mg of N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamic acid tert-butyl ester.

reactant | N-(2-(2-Aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.22 mmol, 555 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)N)=O | C14H22N2O2
reactant | triethylamine | 2.66 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 2.22 mmol, 0.28 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamic acid tert-butyl ester | 557 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O | C20H26N2O4S
